US07109219B2
6-(1H-Indol-5-yloxy)pyrimidin-4-ylamine
Sodium hydride (400 mg, 10.0 mmol) was suspended in dimethyl sulfoxide (20 ml) under nitrogen atmosphere, and 5-hydroxyindole (1.33 g, 10.0 mmol) was gradually added while the reaction mixture was stirred at room temperature. After 20 minutes, 6-chloropyrimidin-4-ylamine (1.04 g, 8.00 mmol) was added thereto, the reaction mixture was heated at 100° C. and stirred for 1 hour. After the reaction mixture was naturally cooled to room temperature, the reaction mixture was partitioned between ethyl acetate and water. The organic layer was washed with water and brine, and was dried over anhydrous magnesium sulfate. The solvent was distilled off, and the residue was purified by silica gel column chromatography (eluent; ethyl acetate:hexane=3:1) to yield the title compound (1.07 g, 4.73 mmol, 59%) as a brown oil.

reactant | Sodium hydride | 10.0 mmol, 400 mg | [H-].[Na+]
reactant | 5-hydroxyindole | 10.0 mmol, 1.33 g | OC=1C=C2C=CNC2=CC1 | C8H7NO
reactant | 6-chloropyrimidin-4-ylamine | 8.00 mmol, 1.04 g | ClC1=CC(=NC=N1)N | C4H4ClN3
solvent | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
product | 6-(1H-Indol-5-yloxy)pyrimidin-4-ylamine | 4.73 mmol, 1.07 g, 59% | N1C=CC2=CC(=CC=C12)OC1=CC(=NC=N1)N | C12H10N4O
